US06034246
Sodium 4-(benzothiazol-2-yl)phenylsulphamate (DF183)
To anhydrous 2-picoline (1.05 g, 11 mmol) was slowly added dropwise chlorsulphonic acid (0.26 g, 2.21 mmol) below 10° C. then 2-(4'-amino-3'-iodophenyl)benzothiazole (0.5 g, 2.21 mmol). The mixture was heated to 50° C. with stirring for 1 hour. After leaving to stand for 2 hours at room temperature, 6 ml of 10% aqueous sodium carbonate was added. The resulting mixture was stirred for 40 minutes at room temperature and concentrated under reduced pressure. The precipitate was filtered off, washed carefully with cold water and treated with hot chlorform. Golden crystals were afforded (0.62 g, 85.5%), m.p. 288-290° C.

reactant | 2-picoline | 11 mmol, 1.05 g | N1=C(C=CC=C1)C | C6H7N
reactant | chlorsulphonic acid | 2.21 mmol, 0.26 g | ClS(=O)(=O)O | ClHO3S
reactant | 2-(4'-amino-3'-iodophenyl)benzothiazole | 2.21 mmol, 0.5 g | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC=C2)I | C13H9IN2S
reactant | sodium carbonate | 6 ml | C([O-])([O-])=O.[Na+].[Na+]
product | Sodium 4-(benzothiazol-2-yl)phenylsulphamate | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)NS([O-])(=O)=O.[Na+] | InChI=1S/C13H10N2O3S2.Na/c16-20(17,18)15-10-7-5-9(6-8-10)13-14-11-3-1-2-4-12(11)19-13;/h1-8,15H,(H,16,17,18);/q;+1/p-1
